US09056859B2
To a solution of KOH (0.57 g, 0.099 mol) in (2E)-but-2-en-1-ol (100 mL) was added 1-bromo-2-(bromomethyl)-3-nitrobenzene (10 g, 0.033 mol), and the mixture was stirred at r.t for 30 min. Then the mixture was washed with water (200 mL*4), extracted with EtOAc, dried over Na2SO4, concentrated in vacuo. The residue was purified via chromatography (petrol ether) to give 2-bromo-6-nitrobenzyl (2E)-but-2-en-1-yl ether. 1H-NMR (400 MHz, CDCl3) δ 7.76 (d, J=8.0 Hz, 1H), 7.75 (d, J=8.0 Hz, 1H), 7.25˜7.30 (m, 1H), 5.68˜5.77 (m, 1H), 5.51˜5.58 (m, 1H), 4.82 (s, 2H), 1.69 (d, J=6.0 Hz, 3H).

reactant | KOH | 0.099 mol, 0.57 g | [OH-].[K+]
reactant | 1-bromo-2-(bromomethyl)-3-nitrobenzene | 0.033 mol, 10 g | BrC1=C(C(=CC=C1)[N+](=O)[O-])CBr | C7H5Br2NO2
solvent | (2E)-but-2-en-1-ol | 100 mL | C(\C=C\C)O | C4H8O
product | 2-bromo-6-nitrobenzyl (2E)-but-2-en-1-yl ether | C(\C=C\C)OCC1=C(C=CC=C1[N+](=O)[O-])Br | C11H12BrNO3
